US07763639B2
4-[2-FLUORO-3-(TRIFLUOROMETHYL)PHENYL]-1-PROPYLPIPERIDINE
A mixture of 4-[2-fluoro-3-(trifluoromethyl)phenyl]-1-propyl-1,2,3,6-tetrahydropyridine (5.0 g, 17.4 mmol), palladium on carbon (0.4 g) and hydrochloric acid (0.5 ml, conc) in methanol (30 ml) was hydrogenated at 50 psi for 15 h under hydrogen. The reaction mixture was filtered through a pad of celite and the filtrate was concentrated and evaporated to dryness to give 4.7 g of crude product. Purification by flash column chromatography (Isooctane/ethylacetate, 1:1) gave the title compound (2.57 g, 51%). The amine was converted to the hydrochloric acid salt and recrystallized from ethanol/diethyl ether: M.p. 258-260° C. MS m/z (relative intensity, 70 eV) 289 (M+, 4), 261 (16), 260 (bp), 177 (6) 70 (15).

reactant | 4-[2-fluoro-3-(trifluoromethyl)phenyl]-1-propyl-1,2,3,6-tetrahydropyridine | 17.4 mmol, 5.0 g | FC1=C(C=CC=C1C(F)(F)F)C=1CCN(CC1)CCC | C15H17F4N
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
catalyst | palladium on carbon | 0.4 g | [Pd] | Pd
solvent | methanol | 30 ml | CO | CH4O
product | 4-[2-FLUORO-3-(TRIFLUOROMETHYL)PHENYL]-1-PROPYLPIPERIDINE | 2.57 g, 51% | FC1=C(C=CC=C1C(F)(F)F)C1CCN(CC1)CCC | C15H19F4N
